US07902252B2
2.50. Synthesis of methyl 4-(3-ethynylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, BOC protected methyl 4-(3-bromobenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (1-tert-butyl 2-methyl 4-(3-bromobenzyl)-5,6-dihydrocyclopenta[b]pyrrole-1,2(4H)-dicarboxylate) (0.101 g, 0.23 mmol) was coupled with ethynyltrimethylsilane (0.065 mL, 0.46 mmol) according to General Procedure 9.4 to give 1-tert-butyl 2-methyl 4-(3-((trimethylsilyl)ethynyl)benzyl)-5,6-dihydrocyclopenta[b]pyrrole-1,2(4H)-dicarboxylate. The trimethylsilyl group and BOC group were then removed. 1-tert-butyl 2-methyl 4-(3-((trimethylsilyl)ethynyl)benzyl)-5,6-dihydrocyclopenta[b]pyrrole-1,2(4H)-dicarboxylate (0.061 g, 0.135 mmol) was dissolved in anhydrous THF (2 mL), and tetrabutylammoniumfluoride (0.68 mL of 1 M solution in THF, 0.68 mmol) was added, and the reaction was stirred at ambient temperature for 5 min. The reaction was heated to 60° C. and stirred for 3 h, after which 2 drops of trifluoroacetic acid was added. The reaction was stirred at 60° C. for 18 h; then allowed to cool to ambient temperature. Aqueous ammonium chloride was added and the product extracted two times with ethyl acetate. The organic layer was dried over Na2SO4, concentrated and purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-20% EtOAc/heptane to afford both the title compound (methyl 4-(3-ethynylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate) as well as N-BOC product (1-tert-butyl 2-methyl 4-(3-ethynylbenzyl)-5,6-dihydrocyclopenta[b]pyrrole-1,2(4H)-dicarboxylate). (0.014 g and 0.016 g, respectively). 1H NMR (400 MHz, ACETONE-d6) δ ppm 2.06-2.14 (m, 1H) 2.47-2.58 (m, 1H) 2.58-2.74 (m, 2H) 2.80 (d, J=7.42 Hz, 2H) 3.25-3.33 (m, 1H) 3.60 (s, 1H) 3.71 (s, 3H) 6.27-6.30 (m, 1H) 7.23-7.39 (m, 4H) 10.48 (br. s, 1H).

reactant | 1-tert-butyl 2-methyl 4-(3-((trimethylsilyl)ethynyl)benzyl)-5,6-dihydrocyclopenta[b]pyrrole-1,2(4H)-dicarboxylate | 0.135 mmol, 0.061 g | C[Si](C)(C)C#CC=1C=C(CC2CCC=3N(C(=CC32)C(=O)OC)C(=O)OC(C)(C)C)C=CC1 | C26H33NO4Si
reactant | tetrabutylammoniumfluoride | 0.68 mmol, 1 M, 0.68 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | trifluoroacetic acid | 2 drops | FC(C(=O)O)(F)F | C2HF3O2
product | methyl 4-(3-ethynylbenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | C(#C)C=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1 | C18H17NO2
